US04039636
Dodecyl isopropyl hydrogen phosphate was prepared by slowly adding a mixture of 0.2 g. mole each of 1-dodecanol and isopropyl alcohol to a stirred slurry of 0.1 g. mole of P2O5 in 100 ml. hexane, holding the temperature of the reaction mixture below its boiling point by use of a water bath. After the addition was complete, stirring was continued until the mixture was clear and then the hexane was distilled off, the last portion under reduced pressure. The product was a clear, colorless liquid which crystallized slowly into a waxy, white solid. It was primarily the desired mixed ester with small amounts of the two symmetrical diesters.

reactant | 1-dodecanol | C(CCCCCCCCCCC)O | C12H26O
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
reactant | P2O5 | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | hexane | CCCCCC | C6H14
product | Dodecyl isopropyl hydrogen phosphate | P(=O)(OCCCCCCCCCCCC)(OC(C)C)O | C15H33O4P
